### PR TITLE
[Merged by Bors] - feat: generalize `OpenPartialHomeomorph.Defs` file to `PartialHomeomorph`

### PR DESCRIPTION
**Pull request by scholzhannah**
Add `PartialHomeomorph`, which generalises `OpenPartialHomoemorph` by dropping the condition that the source and target be open. In other words, an `OpenPartialHomeomorph` is a `PartialHomeomorph` that additionally has open source and target.
This generalisation should find uses for manifolds (extended charts are `PartialHomeomorph`s, but their target is not open for manifolds with boundary). For CW complexes, we will want a `ClosedPartialHomeomorph`: this allows re-using results as much as possible.

This PR adds the basic definitions; future PRs will add additional material: #39071 indicates what the eventual result may be.

Zulip discussion: [#mathlib4 > Generalizing &#96;PartialHomeomorph&#96;?](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Generalizing.20.60PartialHomeomorph.60.3F/with/536896273)

------

old description:
As discussed on Zulip ([#mathlib4 > Generalizing &#96;PartialHomeomorph&#96;?](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Generalizing.20.60PartialHomeomorph.60.3F/with/536896273)), I renamed `PartialHomeomorph` to `OpenPartialHomeomorph` in #29113. 
In this PR I now add a new `PartialHomeomorph` which is a `PartialEquiv` that is continuous on both source and target. An `OpenPartialHomeomorph` is then a `PartialHomeomorph` that additionally has open source and target. In subsequent PRs I will generalize the other files. See this draft PR (#39071) for what I think the end result might be. 
`PartialHomeomorph` should find uses at least for manifolds (`ModelWithCorners`). Afterwards, I want to add a `ClosedPartialHomeomorph` to use for CWComplexes. 

---

I don't have a lot of experience doing these kind of modifications of a large piece of code. Additionally, I am not familiar with the main uses of `OpenPartialHomeomorph` in Mathlib. So while I did this to the best of my abilities, you should read this carefully because there might be things I did wrong or in non-ideal ways. 

- [x] depends on: #39565 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/OpenPartialHomeomorph/Basic.lean [hunk 1]
```diff
@@ -145,7 +145,7 @@ theorem coe_ofContinuousOpenRestrict_symm (e : PartialEquiv X Y) (hc : Continuou
 
 /-- A `PartialEquiv` with continuous open forward map and open source is a
 `OpenPartialHomeomorph`. -/
-@[simps! toPartialEquiv]
+@[simps! toPartialHomeomorph_toPartialEquiv]
```
Comment (j-loreaux) [inline Mathlib/Topology/OpenPartialHomeomorph/Basic.lean]: Here and elsewhere, why not `toPartialHomeomorph`?

File: Mathlib/Topology/OpenPartialHomeomorph/Constructions.lean [hunk 2]
```diff
@@ -100,7 +100,7 @@ theorem refl_prod_refl : (OpenPartialHomeomorph.refl X).prod (OpenPartialHomeomo
 theorem prod_trans (e : OpenPartialHomeomorph X Y) (f : OpenPartialHomeomorph Y Z)
     (e' : OpenPartialHomeomorph X' Y') (f' : OpenPartialHomeomorph Y' Z') :
     (e.prod e').trans (f.prod f') = (e.trans f).prod (e'.trans f') :=
-  toPartialEquiv_injective <| e.1.prod_trans ..
+  toPartialHomeomorph_injective <| PartialHomeomorph.toPartialEquiv_injective <| e.1.prod_trans ..
```
Comment (j-loreaux) [inline Mathlib/Topology/OpenPartialHomeomorph/Constructions.lean]: You keep using pricing this lemma. Just write it somewhere and use it.

File: Mathlib/Topology/PartialHomeomorph/Defs.lean [hunk 3]
```diff
@@ -0,0 +1,227 @@
...
+namespace PartialHomeomorph
+
+variable (e : PartialHomeomorph X Y)
+
+/-! Basic properties; inverse (symm instance) -/
+section Basic
+/-- Coercion of a partial homeomorphisms to a function. We don't use `e.toFun` because it is
+actually `e.toPartialEquiv.toFun`, so `simp` will apply lemmas about `toPartialEquiv`.
+While we may want to switch to this behavior later, doing it mid-port will break a lot of proofs. -/
+@[coe] def toFun' : X → Y := e.toFun
```
Comment (j-loreaux) [inline Mathlib/Topology/PartialHomeomorph/Defs.lean:66]: This looks like it was copied from the existing declaration, and the note is about porting. I don't think it applies anymore, if it ever did.

File: Mathlib/Topology/PartialHomeomorph/Defs.lean [hunk 4]
```diff
@@ -0,0 +1,227 @@
...
+/-- See Note [custom simps projection] -/
+def Simps.symm_apply (e : PartialHomeomorph X Y) : Y → X := e.symm
+
+initialize_simps_projections PartialHomeomorph (toFun → apply, invFun → symm_apply)
+
+protected theorem continuousOn : ContinuousOn e e.source :=
+  e.continuousOn_toFun
+
+theorem continuousOn_symm : ContinuousOn e.symm e.target :=
+  e.continuousOn_invFun
```
Comment (j-loreaux) [inline Mathlib/Topology/PartialHomeomorph/Defs.lean:93]:
```suggestion
@[fun_prop]
protected theorem continuousOn : ContinuousOn e e.source :=
  e.continuousOn_toFun

@[fun_prop]
theorem continuousOn_symm : ContinuousOn e.symm e.target :=
  e.continuousOn_invFun
```

File: Mathlib/Topology/PartialHomeomorph/Defs.lean [hunk 5]
```diff
@@ -0,0 +1,227 @@
...
+
+@[simp]
+theorem mk_coe (e : PartialEquiv X Y) (a b) : (PartialHomeomorph.mk e a b : X → Y) = e := rfl
```
Comment (j-loreaux) [inline Mathlib/Topology/PartialHomeomorph/Defs.lean]: I think using `a b` here for argument names is strange.

File: Mathlib/Topology/PartialHomeomorph/Defs.lean [hunk 6]
```diff
@@ -0,0 +1,227 @@
...
+@[simp]
+theorem toFun_eq_coe (e : PartialHomeomorph X Y) : e.toFun = e :=
+  rfl
+
+@[simp]
+theorem invFun_eq_coe (e : PartialHomeomorph X Y) : e.invFun = e.symm :=
+  rfl
+
+@[simp]
+theorem coe_coe : (e.toPartialEquiv : X → Y) = e :=
```
Comment (j-loreaux) [inline Mathlib/Topology/PartialHomeomorph/Defs.lean]:
```suggestion
theorem coe_toPartialEquiv : (e.toPartialEquiv : X → Y) = e :=
```
Here and elsewhere.

File: Mathlib/Topology/PartialHomeomorph/Defs.lean [hunk 7]
```diff
@@ -0,0 +1,227 @@
...
+@[simp]
+theorem coe_coe_symm : (e.toPartialEquiv.symm : Y → X) = e.symm :=
+  rfl
+
+@[simp]
+theorem map_source {x : X} (h : x ∈ e.source) : e x ∈ e.target :=
+  e.map_source' h
+
+/-- Variant of `map_source`, stated for images of subsets of `source`. -/
+lemma map_source'' : e '' e.source ⊆ e.target :=
```
Comment (j-loreaux) [inline Mathlib/Topology/PartialHomeomorph/Defs.lean]: Docstring doesn't match statement. Please change to match docstring.

File: Mathlib/Topology/PartialHomeomorph/Defs.lean [hunk 8]
```diff
@@ -0,0 +1,227 @@
...
+theorem right_inv {x : Y} (h : x ∈ e.target) : e (e.symm x) = x :=
+  e.right_inv' h
+
+theorem eq_symm_apply {x : X} {y : Y} (hx : x ∈ e.source) (hy : y ∈ e.target) :
+    x = e.symm y ↔ e x = y :=
+  e.toPartialEquiv.eq_symm_apply hx hy
+
+protected theorem mapsTo : MapsTo e e.source e.target := fun _ => e.map_source
+
+protected theorem symm_mapsTo : MapsTo e.symm e.target e.source :=
```
Comment (j-loreaux) [inline Mathlib/Topology/PartialHomeomorph/Defs.lean]:
```suggestion
protected theorem mapsTo_symm : MapsTo e.symm e.target e.source :=
```

File: Mathlib/Topology/PartialHomeomorph/Defs.lean [hunk 9]
```diff
@@ -0,0 +1,227 @@
...
+  continuousOn_toFun := e.continuous.continuousOn
+  continuousOn_invFun := e.symm.continuous.continuousOn
+
+/-- A homeomorphism induces a partial homeomorphism on the whole space -/
+@[simps! -fullyApplied]
+def _root_.Homeomorph.toPartialHomeomorph (e : X ≃ₜ Y) : PartialHomeomorph X Y :=
+  e.toPartialHomeomorphOfImageEq univ univ <| by rw [image_univ, e.surjective.range_eq]
+
+/-- Replace `toPartialEquiv` field to provide better definitional equalities. -/
+def replaceEquiv (e : PartialHomeomorph X Y) (e' : PartialEquiv X Y)
```
Comment (j-loreaux) [inline Mathlib/Topology/PartialHomeomorph/Defs.lean]: I could be convinced otherwise here
```suggestion
def replacePartialEquiv (e : PartialHomeomorph X Y) (e' : PartialEquiv X Y)
```

**Review by j-loreaux — COMMENTED** [review]
Thanks Hannah!

File: Mathlib/Topology/OpenPartialHomeomorph/Basic.lean (hunk 1 above)
Comment (scholzhannah) [reply Mathlib/Topology/OpenPartialHomeomorph/Basic.lean]: I thought that this might reduce breakage downstream but in Mathlib this doesn't even break anything, so I changed it to `toPartialHomeomorph`.

File: Mathlib/Topology/PartialHomeomorph/Defs.lean (hunk 3 above)
Comment (scholzhannah) [reply Mathlib/Topology/PartialHomeomorph/Defs.lean:66]: Ah, yes you're right. I removed the last sentence for both `PartialHomeomorph` and `OpenPartialHomeomorph`.

File: Mathlib/Topology/PartialHomeomorph/Defs.lean (hunk 4 above)
Comment (scholzhannah) [reply Mathlib/Topology/PartialHomeomorph/Defs.lean:93]: Thanks, I also added the attribute to the corresponding `OpenPartialHomeomorph` lemmas.

File: Mathlib/Topology/PartialHomeomorph/Defs.lean (hunk 5 above)
Comment (scholzhannah) [reply Mathlib/Topology/PartialHomeomorph/Defs.lean]: I agree, I changed this here and in the corresponding theorem for `OpenPartialHomeomorph`.

File: Mathlib/Topology/PartialHomeomorph/Defs.lean (hunk 6 above)
Comment (scholzhannah) [reply Mathlib/Topology/PartialHomeomorph/Defs.lean]: I changed this here and in the symm lemma for both `PartialHomeomorph` and `OpenPartialHomeomorph`. Are there more lemmas you were thinling of? (I looked briefly and didn't find anything else.)

File: Mathlib/Topology/PartialHomeomorph/Defs.lean (hunk 7 above)
Comment (scholzhannah) [reply Mathlib/Topology/PartialHomeomorph/Defs.lean]: I changed this here and in the `OpenPartialHomeomorph` version.

File: Mathlib/Topology/PartialHomeomorph/Defs.lean (hunk 8 above)
Comment (scholzhannah) [reply Mathlib/Topology/PartialHomeomorph/Defs.lean]: I changed this here and in the `OpenPartialHomeomorph` and `PartialEquiv` version for consistency.

File: Mathlib/Topology/PartialHomeomorph/Defs.lean (hunk 9 above)
Comment (scholzhannah) [reply Mathlib/Topology/PartialHomeomorph/Defs.lean]: I am okay with doing this but then I think this also would need to be changed for `OpenPartialHomeomorph` which is maybe a bit too much to do in this PR. Do you think I should do this at all? Or maybe in a separate PR?

Comment (grunweg) [reply Mathlib/Topology/PartialHomeomorph/Defs.lean]: You could make this a separate PR (blocking this one). (In the same vein, you could also split out the other OpenPartialHomeomorph renames, if you'd like. I'll be happy to review those quickly; it's certainly easier than comparing the definitions in two files.)

**Comment by scholzhannah** [comment]
I have now put all the renames in the #39565. Sorry for the giant mess in the commit history, I clearly didn't do the rebase well. Is there any way to clean this mess up now? I hope it magically goes away when the other PR is merged.

**Comment by grunweg** [comment]
I've made a similar git mess myself before. I think you can fix this by doing `git reset master` and then manually committing everything you want. (Be careful that the master branch on this branch is up to date, or specify the right commit instead of `master`.) Yael's cheat sheet at the reviewer bootcamp mentions this.

**Comment by scholzhannah** [comment]
> I've made a similar git mess myself before. I think you can fix this by doing `git reset master` and then manually committing everything you want. (Be careful that the master branch on this branch is up to date, or specify the right commit instead of `master`.) Yael's cheat sheet at the reviewer bootcamp mentions this.

Thanks a lot! I think I might have fixed it now haha.

File: Mathlib/Topology/FiberBundle/Trivialization.lean [hunk 10]
```diff
@@ -412,8 +412,9 @@ initialize_simps_projections Trivialization (toFun → apply, invFun → symm_ap
 theorem toPretrivialization_injective :
     Function.Injective fun e : Trivialization F proj => e.toPretrivialization := fun e e' h => by
   ext1
-  exacts [OpenPartialHomeomorph.toPartialEquiv_injective
-    (congr_arg Pretrivialization.toPartialEquiv h), congr_arg Pretrivialization.baseSet h]
+  exacts [OpenPartialHomeomorph.toPartialHomeomorph_injective
+    (PartialHomeomorph.toPartialEquiv_injective (congr_arg Pretrivialization.toPartialEquiv h)),
+    congr_arg Pretrivialization.baseSet h]
```
Comment (grunweg) [inline Mathlib/Topology/FiberBundle/Trivialization.lean]: Slightly nicer, using `congr()` --- see https://leanprover-community.github.io/extras/congr.html:
```suggestion
  exacts [OpenPartialHomeomorph.toPartialHomeomorph_injective
    (PartialHomeomorph.toPartialEquiv_injective (congr(Pretrivialization.toPartialEquiv $h))),
    congr(Pretrivialization.baseSet $h)]

Comment (grunweg) [reply Mathlib/Topology/FiberBundle/Trivialization.lean]: I wonder if adding OpenPartialHomeomorph.toEquiv_injective makes sense. Can be a future PR!

File: Mathlib/Topology/OpenPartialHomeomorph/Defs.lean [hunk 11]
```diff
@@ -92,29 +86,33 @@ def Simps.symm_apply (e : OpenPartialHomeomorph X Y) : Y → X := e.symm
...
+theorem toPartialHomeomorph_injective :
+    Injective (toPartialHomeomorph : OpenPartialHomeomorph X Y → PartialHomeomorph X Y)
+  | ⟨_, _, _⟩, ⟨_, _, _⟩, rfl => rfl
 
-@[deprecated (since := "2026-05-20")] alias mk_coe_symm := coe_mk_symm
-
-theorem toPartialEquiv_injective :
-    Injective (toPartialEquiv : OpenPartialHomeomorph X Y → PartialEquiv X Y)
-  | ⟨_, _, _, _, _⟩, ⟨_, _, _, _, _⟩, rfl => rfl
+theorem toPartialEquiv_comp_toPartialHomeomorph_injective :
```
Comment (grunweg) [inline Mathlib/Topology/OpenPartialHomeomorph/Defs.lean]: Honest question: this long name is... not great. Is spelling it like the following a bad idea? Let's have a second opinion, e.g. @fpvandoorn 
```
theorem toPartialEquiv_injective :
    Injective (fun f ↦ f.toPartialEquiv : OpenPartialHomeomorph X Y → PartialEquiv X Y) :=
  PartialHomeomorph.toPartialEquiv_injective.comp toPartialHomeomorph_injective

File: Mathlib/Topology/OpenPartialHomeomorph/Defs.lean [hunk 12]
```diff
@@ -92,29 +86,33 @@ def Simps.symm_apply (e : OpenPartialHomeomorph X Y) : Y → X := e.symm
...
 @[simp, mfld_simps]
 theorem coe_mk_symm (e : PartialEquiv X Y) (h₁ h₂ h₃ h₄) :
-    ((OpenPartialHomeomorph.mk e h₁ h₂ h₃ h₄).symm : Y → X) = e.symm :=
+    ((OpenPartialHomeomorph.mk (.mk e h₁ h₂) h₃ h₄).symm : Y → X) = e.symm :=
   rfl
+theorem toPartialHomeomorph_injective :
+    Injective (toPartialHomeomorph : OpenPartialHomeomorph X Y → PartialHomeomorph X Y)
+  | ⟨_, _, _⟩, ⟨_, _, _⟩, rfl => rfl
 
-@[deprecated (since := "2026-05-20")] alias mk_coe_symm := coe_mk_symm
```
Comment (grunweg) [inline Mathlib/Topology/OpenPartialHomeomorph/Defs.lean:113]: You've lost the deprecation warning and newline here.

File: Mathlib/Topology/OpenPartialHomeomorph/Defs.lean [hunk 13]
```diff
@@ -92,29 +86,33 @@ def Simps.symm_apply (e : OpenPartialHomeomorph X Y) : Y → X := e.symm
 
 initialize_simps_projections OpenPartialHomeomorph (toFun → apply, invFun → symm_apply)
 
+@[fun_prop]
```
Comment (grunweg) [inline Mathlib/Topology/OpenPartialHomeomorph/Defs.lean]: Are you using this already? Should this be a later PR?

**Review by grunweg — COMMENTED** [review]
First batch of comments!

File: Mathlib/Topology/PartialHomeomorph/Defs.lean [hunk 14]
```diff
@@ -0,0 +1,232 @@
...
+/-!
+# Partial homeomorphisms: definitions
+
+This file defines homeomorphisms between subsets of topological spaces. An element `e` of
+`PartialHomeomorph X Y` is an extension of `PartialEquiv X Y`, i.e., it is a pair of functions
+`e.toFun` and `e.invFun`, inverse of each other on the sets `e.source` and `e.target`.
+Additionally, we require that the functions are continuous on them. Equivalently, they are
+homeomorphisms there.
+
+As in equivs, we register a coercion to functions, and we use `e x` and `e.symm x` throughout
```
Comment (grunweg) [inline Mathlib/Topology/PartialHomeomorph/Defs.lean]: pre-existing (also for `OpenPartialHomeomorph`)
```suggestion
As for `Equiv`s, we register a coercion to functions, and we use `e x` and `e.symm x` throughout
```

File: Mathlib/Topology/PartialHomeomorph/Defs.lean [hunk 15]
```diff
@@ -0,0 +1,232 @@
...
+instead of `e.toFun x` and `e.invFun x`.
+
+## Main definitions
+
+This file is intentionally kept small; many other constructions of, and lemmas about,
+partial homeomorphisms can be found in other files under `Mathlib/Topology/PartialHomeomorph/`.
```
Comment (grunweg) [inline Mathlib/Topology/PartialHomeomorph/Defs.lean:26]: not yet --- but I'm willing to let this slide to avoid excessive review churn :-)

File: Mathlib/Topology/PartialHomeomorph/Defs.lean [hunk 16]
```diff
@@ -0,0 +1,232 @@
...
+
+protected theorem bijOn : BijOn e e.source e.target :=
+  e.invOn.bijOn e.mapsTo e.mapsTo_symm
+
+protected theorem surjOn : SurjOn e e.source e.target :=
+  e.bijOn.surjOn
+
+end Basic
+
+/-- Interpret a `Homeomorph` as an `PartialHomeomorph` by restricting it
```
Comment (grunweg) [inline Mathlib/Topology/PartialHomeomorph/Defs.lean]:
```suggestion
/-- Interpret a `Homeomorph` as a `PartialHomeomorph` by restricting it
```

File: Mathlib/Topology/PartialHomeomorph/Defs.lean [hunk 17]
```diff
@@ -0,0 +1,232 @@
...
+  continuousOn_toFun := e.continuous.continuousOn
+  continuousOn_invFun := e.symm.continuous.continuousOn
+
+/-- A homeomorphism induces a partial homeomorphism on the whole space -/
+@[simps! -fullyApplied]
+def _root_.Homeomorph.toPartialHomeomorph (e : X ≃ₜ Y) : PartialHomeomorph X Y :=
+  e.toPartialHomeomorphOfImageEq univ univ <| by rw [image_univ, e.surjective.range_eq]
+
+/-- Replace `toPartialEquiv` field to provide better definitional equalities. -/
+def replaceEquiv (e : PartialHomeomorph X Y) (e' : PartialEquiv X Y)
```
Comment (grunweg) [inline Mathlib/Topology/PartialHomeomorph/Defs.lean]: Can you make this `replacePartialEquiv`, like you're doing in `OpenPartialHomeomorph` also?

Comment (grunweg) [reply Mathlib/Topology/PartialHomeomorph/Defs.lean]: (Also in the lemmas below.)

File: Mathlib/Topology/OpenPartialHomeomorph/Defs.lean
Comment (grunweg) [inline Mathlib/Topology/OpenPartialHomeomorph/Defs.lean:216]: Can you use `toPartialHomeomorph := e.toPartialHomeomorph.replacePartialEquiv e' h` here (after the rename below)?

**Review by grunweg — COMMENTED** [review]
Remaining comments. Thanks a lot for doing this, I have only minor comments!

File: Mathlib/Topology/PartialHomeomorph/Defs.lean (hunk 6 above)
Comment (grunweg) [reply Mathlib/Topology/PartialHomeomorph/Defs.lean]: I don't find any in the files this PR modifies.

File: Mathlib/Topology/OpenPartialHomeomorph/Defs.lean (hunk 13 above)
Comment (scholzhannah) [reply Mathlib/Topology/OpenPartialHomeomorph/Defs.lean]: I added this based on a comment above [here](https://github.com/leanprover-community/mathlib4/pull/39084#discussion_r3251748911) but I am happy to move this to a separate PR.

File: Mathlib/Topology/FiberBundle/Trivialization.lean (hunk 10 above)
Comment (scholzhannah) [reply Mathlib/Topology/FiberBundle/Trivialization.lean]: I guess you mean `OpenPartialHomeomorph.toPartialEquiv_comp_toPartialHomeomorph_injective`. I'll use that!

File: Mathlib/Topology/OpenPartialHomeomorph/Defs.lean (hunk 12 above)
Comment (scholzhannah) [reply Mathlib/Topology/OpenPartialHomeomorph/Defs.lean:113]: Ah, yes, sorry.

File: Mathlib/Topology/PartialHomeomorph/Defs.lean (hunk 17 above)
Comment (scholzhannah) [reply Mathlib/Topology/PartialHomeomorph/Defs.lean]: Ah, yes, sorry

File: Mathlib/Topology/OpenPartialHomeomorph/Defs.lean (hunk 11 above)
Comment (j-loreaux) [reply Mathlib/Topology/OpenPartialHomeomorph/Defs.lean]: @scholzhannah I agree with Michael here about the naming and statement.

File: Mathlib/Topology/PartialHomeomorph/Defs.lean [hunk 18]
```diff
@@ -0,0 +1,230 @@
...
+theorem coe_mk (e : PartialEquiv X Y) (h₁ h₂) : (PartialHomeomorph.mk e h₁ h₂ : X → Y) = e := rfl
+
+@[deprecated (since := "2026-05-20")] alias mk_coe := coe_mk
+
+@[simp]
+theorem coe_mk_symm (e : PartialEquiv X Y) (h₁ h₂) :
+    ((PartialHomeomorph.mk e h₁ h₂).symm : Y → X) = e.symm :=
+  rfl
+
+@[deprecated (since := "2026-05-20")] alias mk_coe_symm := coe_mk_symm
```
Comment (j-loreaux) [inline Mathlib/Topology/PartialHomeomorph/Defs.lean]: I don't think we already had a lemma by this name. We only have it for `OpenPartialHomeomorph`
```suggestion
```

File: Mathlib/Topology/PartialHomeomorph/Defs.lean [hunk 19]
```diff
@@ -0,0 +1,230 @@
...
+@[simp]
+theorem coe_toPartialEquiv_symm : (e.toPartialEquiv.symm : Y → X) = e.symm :=
+  rfl
+
+@[simp]
+theorem map_source {x : X} (h : x ∈ e.source) : e x ∈ e.target :=
+  e.map_source' h
+
+/-- Variant of `map_source`, stated in terms of subsets. -/
+lemma map_source'' : e '' e.source ⊆ e.target :=
```
Comment (j-loreaux) [inline Mathlib/Topology/PartialHomeomorph/Defs.lean]: I realize this is named to match the `PartialEquiv` and `OpenPartialHomeomorph` versions, but this name sucks. Maybe we can switch it to `image_source_subset`? Making the others conformant could be done in a follow-up PR.

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors d+
